US07759337B2
Step A: 4-Bromo-N-cyclopropyl-5-methylthiophene-2-carboxamide
4-Bromo-5-methylthiophene-2-carboxylic acid (1.05 g, 4.75 mmol) was suspended in thionyl chloride (4.75 mL) and heated to 70° C. for 1.5 h. The mixture was concentrated and dried azeotropically with toluene. The reaction mixture was dissolved in dioxane (11.9 mL) to which diisopropylethylamine (4.14 mL, 23.7 mmol) and cyclopropylamine (1.36 mL, 23.7 mmol) were added and stirred at RT for 2 h. The reaction mixture was diluted with 50 mL ethyl acetate, partitioned with sodium bicarbonate (saturated, aqueous), and the organic layers were washed 2×50 mL with sodium bicarbonate (saturated, aqueous), washed with 3 N HCl, separated, dried over sodium sulfate, and concentrated in vacuo to give the title compound. MS (ES+): 262 (M+H)+.

reactant | 4-Bromo-5-methylthiophene-2-carboxylic acid | 4.75 mmol, 1.05 g | BrC=1C=C(SC1C)C(=O)O | C6H5BrO2S
reactant | diisopropylethylamine | 23.7 mmol, 4.14 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | cyclopropylamine | 23.7 mmol, 1.36 mL | C1(CC1)N | C3H7N
solvent | thionyl chloride | 4.75 mL | S(=O)(Cl)Cl | Cl2OS
solvent | dioxane | 11.9 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 4-Bromo-N-cyclopropyl-5-methylthiophene-2-carboxamide | BrC=1C=C(SC1C)C(=O)NC1CC1 | C9H10BrNOS
